2109-01-26 07:57:00 Physician Resident Progress Note
Chief Complaint: BRBPR
   24 Hour Events:
   - admitted
   - two episodes of red clots but no brisk bleeding
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-1-25**] 06:30 PM
   Dextrose 50% - [**2109-1-26**] 06:00 AM
   Other medications:
   Metoprolol 12.5 po BID
   Protonix 40mg IV BID
   Ranolazine 500mg [**Hospital1 7**]
   Insulin SS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-26**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 72 (67 - 86) bpm
   BP: 144/44(68) {120/41(54) - 151/67(82)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,260 mL
                                                                     75 mL
   PO:
                  50 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    450 mL
                                                                    350 mL
   Urine:
                                                                    450 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,810 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilarly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   186 K/uL
   9.8 g/dL
   64 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   22 mg/dL
   109 mEq/L
   142 mEq/L
   28.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-1-25**]  06:14 PM
                             [**2109-1-26**]  03:05 AM
   WBC
   10.7
   Hct
   28.0
   28.4
   Plt
   186
   Cr
   0.9
   TropT
   <0.01
   Glucose
   64
   Other labs: CK / CKMB / Troponin-T:38//<0.01, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   Imaging: CTA abd [**1-25**]:
   1. No acute process in the abdomen or pelvis; specifically, no evidence
   of
   mesenteric ischemia.
   2. Stable hypodense lesion within the pancreatic body likely represents
   a
   lipoma or interposed fat as this lesion is stable from [**2106-12-3**] exam.
   If
   there is strong clinical concern, an MRCP may be obtained.
   3. Left renal hypodense cyst.
   4. Colonic diverticulosis, without evidence of diverticulitis.
   5. Calcific density at the pelvic floor, stable from [**2106**], likely
   represents
   a stone within a urethral diverticulum.
   Microbiology: Blood cx [**2109-1-25**]: NGTD
   Assessment and Plan
   Ms. [**Known lastname 803**] is a 76F with DM, CAD, and h/o GIB who presents with GIB and
   CP.
   # GIB: BRBPR more suggestive of a lower source. Brisk upper bleed seems
   less likely.  Now only some red clots.  Diff dx includes  ischemia
   (less likely), AVMs, diverticular.  C-scope in '[**07**] makes malignancy
   less likely
   - 2 large bore IVs (18g)
   - s/p 2 units PRBCs
   - Hct stable since transfusion
   - Active T&S
   - q8 hct transfuse hct>25  given coronary disease
   - protonix can change to daily
   - advance diet to clears, then low residue as tol
   - hold Plavix, SC heparin, or NSAIDs (not on aspirin at BL)
   - GI recs: inpt scope next week (mon or tues)
   # CP, h/o CABG.  Pt reports chronic CP, unchanged, and is on 2
   anti-anginal medications.
   - ruled out MI
   - avoid nitroglycerin given hypotension in ED
   - continue Ranolazine
   - restart Imdur at 60mg Daily (takes 120mg at home)
   - continue metoprolol despite GI bleed
   - hold plavix, not on any aspirin
    # Volume status.  EF 40-50% by last echo.  Crackles on exam, +JVD,
   after 2 units PRBCs
   - lasix 10mg IV x1
   # DM:  Hold oral hypoglycemics as pt NPO
   - FS QID
   - Humalong SS
   # HTN: Continue metoprolol, hold Cozaar, Triampterene/HCTZ.  Consider
   restarting Imdur for CP as above
   - if BP > 140 systolic, will restart Cozaar
   # Hyperlipidemia: Continue Simvastatin
   # GERD: continue PPI, [**Hospital1 7**] for now
   # FEN: advance to clears
   # Access: PIVx2. 18g
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-1-25**] 02:47 PM
   Prophylaxis:
   DVT: Boots(OOB)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2109-01-26 10:13:00 Physician Attending Progress Note
Chief Complaint:. BRBPR
   HPI: 76yo with CAD s/p CABG, DM with chronic angina, admit for BRBPR.
   Unable to quantify.  s/p 2 units PRBC. Admit to MICU b/c hypotensive
   after getting SL NTG, BP have stabilized.  Bleeding resolved.  Of note
   s/p screening  colonoscopy in [**2107**] showed diverticula and varices.
   24 Hour Events:
   1) Overnight has passed blood clots x 2 events.
   2) BP stable
   3) chest pain this am; EKGs wnl.
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-1-25**] 06:30 PM
   Dextrose 50% - [**2109-1-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-26**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 67 (67 - 86) bpm
   BP: 103/79(85) {103/41(54) - 151/79(85)} mmHg
   RR: 7 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,260 mL
                                                                    255 mL
   PO:
                  230 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    450 mL
                                                                    550 mL
   Urine:
                                                                    450 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,810 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   186 K/uL
   64 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   22 mg/dL
   109 mEq/L
   142 mEq/L
   28.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-1-25**]  06:14 PM
                             [**2109-1-26**]  03:05 AM
   WBC
   10.7
   Hct
   28.0
   28.4
   Plt
   186
   Cr
   0.9
   TropT
   <0.01
   Glucose
   64
   Other labs: CK / CKMB / Troponin-T:38//<0.01, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   Imaging: No recent CXR
   CT Abd- with diverticuli. stable pancreatic lesions since [**11-15**], likely
   lipoma.
   Microbiology: Blood Cx [**1-25**]= NGTD
   ECG: sinus 75, normal axis, normal R wave, PR, QRS, QTc wnl. J pt
   elevation V1-V3.
   Assessment and Plan
   1.       GI- presents with likely lower GI bleed (no NG lavage done).
   Bleeding is resolving and hematocrits stable. Etiology likely
             [**2-11**] diverticula  or varices.  Unlikely to be tumor given
   recent colonoscopy findings.
   a)       Gi to perform colonoscopy on Tuesday
   b)       Follow hematocrits.  Q8hr. can taper to q12h when stable x 24
   hr
   c)       Access= 2x 18gauge
   d)        Holding anti-platelets
   e)       Advance diet to  clears
   2. CV
         a) Chest pain- c/w her prior angina. On Imdur and Renolazine.
              i) EKGs and serial enzymes being followed to r/o ACS
        b) HTN- has been taken off of antihypertensives in setting of
   bleed. As blood pressure improves will
             add back agents; currently on metop.
   3) Resp- with crackles bibasilarly, 3L fluid positive
        -  Will give furosemide 10mg and follow I/O for TBB -1L
   4) Heme- f/u crit q8hr, transfuse for crit<25.
   5) Endo- f/u sugars.
   6) Transfer to floor.
        SCDS and PPI
        Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-1-25**] 02:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2109-01-28 06:55:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   -- readmitted after 600 cc "bloody stool" noted by nurse on floor; HD
   stable at time
   -- transfused 4 units RBCs throughout morning with lasix 20 mg IV x 2
   between bags
   -- was taken to nuc med for RBC scan, but had to turn back b/c SBP 80's
   with HR 80's, pt felt dizzy, diaphoretic, clammy; no CP at the time
   though --> likley vagal event with abd cramping, as BP normalized w/o
   intervention to SBP 140's, HR 100's when she was back in her room
   -- terrible peripheral venous access; placed right IJ cordis
   -- BP & Hct stable overnight; never got scan, never called surgery
   -- got GoLytely Prep; still "tea colored" [**Doctor Last Name **] output after 4 L
   -- wrote for another unit RBC b/c Hct went from 33 --> 29 from 10 pm to
   4 am
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-27**] 02:40 PM
   Lorazepam (Ativan) - [**2109-1-27**] 04:01 PM
   Pantoprazole (Protonix) - [**2109-1-27**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2109-1-28**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 83 (83 - 114) bpm
   BP: 148/48(71) {85/39(50) - 192/123(131)} mmHg
   RR: 13 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,439 mL
                                                                  4,018 mL
   PO:
                                                                     50 mL
                                                                  3,900 mL
   TF:
   IVF:
                                                                    269 mL
                                                                    118 mL
   Blood products:
                                                                  1,120 mL
   Total out:
                                                                  1,790 mL
                                                                  3,800 mL
   Urine:
                                                                  1,540 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   10.7 g/dL
   93 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2109-1-25**]  06:14 PM
                             [**2109-1-26**]  03:05 AM
                             [**2109-1-26**]  11:54 AM
                             [**2109-1-27**]  10:41 AM
                             [**2109-1-27**]  05:30 PM
                             [**2109-1-27**]  10:05 PM
                             [**2109-1-28**]  03:54 AM
   WBC
   10.7
   12.6
   13.8
   Hct
   28.0
   28.4
   29.3
   25.5
   33.8
   33.4
   29.6
   Plt
   186
   125
   107
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   64
   171
   93
   PT / PTT / INR:13.4/26.9/1.1
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Imaging: No new imaging (after chest line placement yesterday)
   Microbiology: [**2109-1-25**] Blood culture: NGTD
   Assessment and Plan
   Ms. [**Known lastname 803**] is a 76F with DM, CAD, and h/o GIB who presented with LGIB
   and CP (now resolved).
   # GIB: recurrent BRBPR seems more suggestive of a lower source. Brisk
   upper bleed less likely. Hematocrit on arrival to ICU is 25.5, which is
   somewhat lower than this morning despite the interval transfusion of 1
   units pRBCs. Recent colonoscopy [**2107**] with hemorrhoids no other
   significant pathology. Most probable ddx includes diverticular bleeding
   as well as a hemorrhoidal bleed. Also consider  angiodysplasia.
   Ischemic colitis ruled out by CT-A abdomen.  Got a total of four units
   yesterday; another one unit written for this morning.
   -- deferring tagged RBC scan given HD stable, slow Hct loss; likely to
   be a low yield test
   -- maintain active T&S
   -- trend HCT q6-8, transfuse to HCT 30 given coronary disease
   -- UGIB unlikely; was on protonix 40 iv bid o/n; will change to PO PPI
   QD
   -- colonoscopy planned for today; completed prep overnight
   -- NPO; will consider advancing to clears at lunch after colonoscopy;
   then further as tolerated
   -- hold Plavix, SC heparin, or NSAIDs (not on aspirin at BL)
   -- surgery not consulted yet
   # CP, h/o CABG. Pt reports chronic CP, unchanged, and is on 2
   anti-anginal medications.   Enies CP on transfer to the ICU.
   -- ruled out for MI with serial enzymes  on admission
   -- avoid nitroglycerin or Imdur for now given hypotension in the ED
   -- continue Ranolazine
   -- hold metoprolol other anti-hypertensives for now; SBP 150
s ok; can
   slowly add back
   -- hold plavix, not on any aspirin
   # DM: Hold oral hypoglycemics as pt NPO
   -- FS QID
   -- Humalog SS
   # HTN: on home metoprolol, hold Cozaar, Imdur, Triampterene/HCTZ
   -- hold all agents
   # Hyperlipidemia:
   -- continue Simvastatin
   # GERD: continue PPI, [**Hospital1 7**] IV for now
   # FEN
   --  NPO for now; can consider advancing in afternoon after scope
   -- replete lytes, check frequent Ca
   # Comm: with patient and daughter [**Name (NI) 5090**] [**Name (NI) 802**] - [**Telephone/Fax (1) 5091**] (h) or
   [**Telephone/Fax (1) 5092**] (c)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2109-01-28 10:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   76yo with CAD, medically managed, with Hx diverticulosis and
   hemmorhoids, admit with BRBPR.  Yesterday transferred back to MICU for
   re-bleeding, associated with a 4 point hematocrit drop, requiring 4 u
   PRBC to maintain her hematocrit > 30 (pt repsonded approp). Prepped for
   colonoscopy last night.
   24 Hour Events:
   - Cordis catheter placed (R. IJ) [**1-27**] for access.
   - Hemodynamically stable last night.
   -
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-27**] 02:40 PM
   Lorazepam (Ativan) - [**2109-1-27**] 04:01 PM
   Pantoprazole (Protonix) - [**2109-1-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-28**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 85 (83 - 114) bpm
   BP: 130/55(73) {85/39(50) - 192/123(131)} mmHg
   RR: 14 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,439 mL
                                                                  4,645 mL
   PO:
                                                                     50 mL
                                                                  4,000 mL
   TF:
   IVF:
                                                                    269 mL
                                                                    270 mL
   Blood products:
                                                                  1,120 mL
                                                                    375 mL
   Total out:
                                                                  1,790 mL
                                                                  3,860 mL
   Urine:
                                                                  1,540 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    785 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L NC
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   107 K/uL
   93 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2109-1-25**]  06:14 PM
                             [**2109-1-26**]  03:05 AM
                             [**2109-1-26**]  11:54 AM
                             [**2109-1-27**]  10:41 AM
                             [**2109-1-27**]  05:30 PM
                             [**2109-1-27**]  10:05 PM
                             [**2109-1-28**]  03:54 AM
   WBC
   10.7
   12.6
   13.8
   Hct
   28.0
   28.4
   29.3
   25.5
   33.8
   33.4
   29.6
   Plt
   186
   125
   107
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   64
   171
   93
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:36//<0.01, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   73yo with CAD, with presumed LGIB.
   1. GI
       - Will undergo colonoscopy to evaluate bleed- most likely etiology
   is diverticulosis vs hemmorhoids
       - Will keep Crit>25
       - Access= Cordis Catheter
       - Follow crits q8hr today then space to q12h
       - On PPI oral daily
       - NPO for now
   2. Heme-
      - Follow Ca q12h given getting blood products
   3. CV
        - Holding antiplatelets
        - Holding anti-hypertensives in setting of bleed, will add back
   once on floor
   4. Resp-
       - Will wean FiO2 to keep SpO2>92%
   5. Endo-
       - Insulin SS
   6. ICU
       - Access= Cordis and periph
       - FUll Code
       - Prophy= PPI, SCDs
       - Dispo- will remain in ICU until hematocrits stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 min

2109-01-29 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - colonoscopy [**1-28**]: no evidence of bleeding
   - got 1 unit PRBCs for Hct 29, didn't bump appropriately (Hct only rose
   to 30)
   - no evidence overt bleeding, but b/c of Hct dropped next two checks,
   gave 2 units PRBCs, GI will do EGD tomorrow
   - tolerated regular diet; npo at midnight for egd
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-29**] 02:37 AM
   Other medications:
   Flowsheet Data as of  [**2109-1-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 78 (76 - 93) bpm
   BP: 143/53(74) {115/41(28) - 180/102(114)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  6,730 mL
                                                                  1,190 mL
   PO:
                                                                  5,020 mL
           TF:
   IVF:
                                                                  1,335 mL
                                                                    638 mL
   Blood products:
                                                                    375 mL
                                                                    552 mL
   Total out:
                                                                  4,470 mL
                                                                  1,675 mL
   Urine:
                                                                  1,220 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,260 mL
                                                                   -486 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General: appears calm, NAD
   HEENT: PERRL, EOMI , MMM
   Neck: No JVD
   Pulm: Bibasilar crackles , no wheezes
   CV: RRR, III/VI SEM , ? S3
   Abd +BS, soft, non-distended, not TTP; no rebound/guarding
   Extrem: no edema , WWP
   Neuro: AAOx3; CN II
 XII in tact; strength 5/5 throughout
   Labs / Radiology
   102 K/uL
   11.3 g/dL
   170 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   31.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2109-1-26**]  03:05 AM
                             [**2109-1-26**]  11:54 AM
                             [**2109-1-27**]  10:41 AM
                             [**2109-1-27**]  05:30 PM
                             [**2109-1-27**]  10:05 PM
                             [**2109-1-28**]  03:54 AM
                             [**2109-1-28**]  09:56 AM
                             [**2109-1-28**]  03:34 PM
                             [**2109-1-28**]  10:16 PM
                             [**2109-1-29**]  05:42 AM
   WBC
   10.7
   12.6
   13.8
   11.4
   Hct
   28.4
   29.3
   25.5
   33.8
   33.4
   29.6
   30.1
   27.9
   23.9
   31.4
   Plt
   186
   125
   107
   102
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   64
   171
   93
   170
   Other labs: PT / PTT / INR:13.2/29.6/1.1, CK / CKMB /
   Troponin-T:36//<0.01, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Imaging: [**2109-1-28**] Colonoscopy:
   Internal hemorrhoids
   Diverticulum in the sigmoid colon
   No old or fresh blood was seen in the colon.
   Otherwise normal colonoscopy to cecum
   Microbiology: [**2109-1-25**] BCx x 1: NGTD
   Assessment and Plan
   Ms. [**Known lastname 803**] is a 76F with DM, CAD, and h/o GIB who presented with LGIB
   and CP (now resolved).
   # GIB: recurrent BRBPR seems more suggestive of a lower source. Brisk
   upper bleed less likely. Hematocrit on arrival to ICU is 25.5, which is
   somewhat lower than this morning despite the interval transfusion of 1
   units pRBCs. Recent colonoscopy [**2107**] with hemorrhoids no other
   significant pathology. Most probable ddx includes diverticular bleeding
   as well as a hemorrhoidal bleed. Also consider  angiodysplasia.
   Ischemic colitis ruled out by CT-A abdomen.  Got a total of four units
   yesterday; another one unit written for this morning.
   -- deferring tagged RBC scan given HD stable, slow Hct loss; likely to
   be a low yield test
   -- maintain active T&S
   -- trend HCT q6-8, transfuse to HCT 30 given coronary disease
   -- UGIB unlikely; was on protonix 40 iv bid o/n; will change to PO PPI
   QD
   -- colonoscopy planned for today; completed prep overnight
   -- NPO; will consider advancing to clears at lunch after colonoscopy;
   then further as tolerated
   -- hold Plavix, SC heparin, or NSAIDs (not on aspirin at BL)
   -- surgery not consulted yet
   # CP, h/o CABG. Pt reports chronic CP, unchanged, and is on 2
   anti-anginal medications.   Enies CP on transfer to the ICU.
   -- ruled out for MI with serial enzymes  on admission
   -- avoid nitroglycerin or Imdur for now given hypotension in the ED
   -- continue Ranolazine
   -- hold metoprolol other anti-hypertensives for now; SBP 150
s ok; can
   slowly add back
   -- hold plavix, not on any aspirin
   # DM: Hold oral hypoglycemics as pt NPO
   -- FS QID
   -- Humalog SS
   # HTN: on home metoprolol, hold Cozaar, Imdur, Triampterene/HCTZ
   -- hold all agents
   # Hyperlipidemia:
   -- continue Simvastatin
   # GERD: continue PPI, [**Hospital1 7**] IV for now
   # FEN
   --  NPO for now; can consider advancing in afternoon after scope
   -- replete lytes, check frequent Ca
   # Comm: with patient and daughter [**Name (NI) 5090**] [**Name (NI) 802**] - [**Telephone/Fax (1) 5091**] (h) or
   [**Telephone/Fax (1) 5092**] (c)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2109-01-29 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent colonoscopy yesterday which did not reveal any active
   bleeding.  One diverticulum and internal hemorrhoids visualized.  HCT
   decreased from 29-->26-->23 overnight with no apparent bleeding.
   Received 2 units PRBC.
   C/o some chest pain this monring.
   History obtained from Patient
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-29**] 02:37 AM
   Other medications:
   K/Mag, colace, Ranolazine, simvastatin, RISS, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-29**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 78 (76 - 93) bpm
   BP: 140/53(73) {115/41(28) - 180/102(114)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  6,730 mL
                                                                  1,387 mL
   PO:
                                                                  5,020 mL
           TF:
   IVF:
                                                                  1,335 mL
                                                                    835 mL
   Blood products:
                                                                    375 mL
                                                                    552 mL
   Total out:
                                                                  4,470 mL
                                                                  2,375 mL
   Urine:
                                                                  1,220 mL
                                                                  2,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,260 mL
                                                                   -988 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Appears stated
   age
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   102 K/uL
   170 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   31.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2109-1-26**]  03:05 AM
                             [**2109-1-26**]  11:54 AM
                             [**2109-1-27**]  10:41 AM
                             [**2109-1-27**]  05:30 PM
                             [**2109-1-27**]  10:05 PM
                             [**2109-1-28**]  03:54 AM
                             [**2109-1-28**]  09:56 AM
                             [**2109-1-28**]  03:34 PM
                             [**2109-1-28**]  10:16 PM
                             [**2109-1-29**]  05:42 AM
   WBC
   10.7
   12.6
   13.8
   11.4
   Hct
   28.4
   29.3
   25.5
   33.8
   33.4
   29.6
   30.1
   27.9
   23.9
   31.4
   Plt
   186
   125
   107
   102
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   64
   171
   93
   170
   Other labs: PT / PTT / INR:13.2/29.6/1.1, CK / CKMB /
   Troponin-T:36//<0.01, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Microbiology: No new micro
   ECG: NSR @ 78 BPM.  Nml axis.  Q in III.  No ST/TW changes
   Assessment and Plan
   73yo with CAD admitted with GIB.
    GIB:  Still likely LGIB despite negative colonoscopy.  Reasonable to
   exclude UGIB with EGD today.
     -EGD per GI
     -Goal HCT >30 given history of angina
     -Continue to hold clopidogrel
     -Access= Cordis Catheter
     -Serial HCTs today
     -Cont PPI
     -NPO for now
    Angina:  EKG WNL today.
     -Holding antiplatelets for now
     -Holding anti-hypertensives in setting of bleeding, will add back
   once bleeding stopped.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2109-01-30 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD yesterday 5PM showed no source for the bleeding
   - no further bleeding overnight
   - serial HCTs stable overnight
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-30**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 69 (64 - 100) bpm
   BP: 108/42(58) {105/28(46) - 217/133(138)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,464 mL
                                                                    574 mL
   PO:
             TF:
   IVF:
                                                                  1,882 mL
                                                                    574 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  3,075 mL
                                                                    300 mL
   Urine:
                                                                  3,075 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -611 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   11.3 g/dL
   85
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   142 mEq/L
   31.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-1-27**]  10:05 PM
                             [**2109-1-28**]  03:54 AM
                             [**2109-1-28**]  09:56 AM
                             [**2109-1-28**]  03:34 PM
                             [**2109-1-28**]  10:16 PM
                             [**2109-1-29**]  05:42 AM
                             [**2109-1-29**]  09:36 AM
                             [**2109-1-29**]  05:48 PM
                             [**2109-1-30**]  02:39 AM
                             [**2109-1-30**]  06:00 AM
   WBC
   13.8
   11.4
   11.1
   10.7
   Hct
   33.4
   29.6
   30.1
   27.9
   23.9
   31.4
   31.2
   32.6
   31.5
   Plt
   107
   102
   109
   111
   Cr
   0.9
   0.9
   1.0
   Glucose
   93
   170
   125
   85
   Other labs: PT / PTT / INR:13.2/29.6/1.1, CK / CKMB /
   Troponin-T:36//<0.01, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: [**2109-1-29**] EGD:
   Polyps in the pylorus
   Otherwise normal small bowel enteroscopy to proximal jejunum
   Microbiology: [**2109-1-25**] BCx: NGTD
   Assessment and Plan
   Ms. [**Known lastname 803**] is a 76F with DM, CAD, and h/o GIB who presented with LGIB
   and CP (now resolved).
   # GIB: colonoscopy yest neg for LGIB; persistent Hct drop yest despite
   no more gross blood loss PR; no emesis.   No major risk factors for
   UGIB; LGIB more likely though scope negative yest.  GI plans to do EGD
   this afternoon; possible capsule endoscopy as out-pt if EGD negative
   -- EGD today; currently NPO
   -- serial Q8 hour Hct throughout the day; still has a Cordis  given
   poor/tenuous PIV
   -- maintain active T&S
   -- PPI IV BID
   -- hold Plavix, SC heparin, or NSAIDs (not on aspirin at BL)
   # CP, h/o CABG. Pt reports chronic CP, unchanged, and is on 2
   anti-anginal medications.   Had CP this morning, but self-resolved w/o
   intervention and no HD instability; EKG unchanged.  Holding HTN meds
   but has been SBP 140
s stably w/o higher values.
   -- ruled out for MI with serial enzymes  on admission
   -- continue Ranolazine
   -- hold metoprolol other anti-hypertensives for now; up to SBP 150
   ok; can slowly add back
   -- hold plavix, not on any aspirin
   # DM: Hold oral hypoglycemics as pt NPO
   -- FS QID
   -- Humalog SS
   # HTN: on home metoprolol, hold Cozaar, Imdur, Triampterene/HCTZ
   -- hold all agents until scope/stable Hct
 will lsowly add back as
   tolerated
   # Hyperlipidemia:
   -- continue Simvastatin
   # GERD: continue PPI, [**Hospital1 7**] IV for now
   # FEN
   --  NPO for now; can consider advancing in afternoon after scope
   -- replete lytes, check frequent Ca
   # Comm: with patient and daughter [**Name (NI) 5090**] [**Name (NI) 802**] - [**Telephone/Fax (1) 5091**] (h) or
   [**Telephone/Fax (1) 5092**] (c)
   ICU Care
   Nutrition:
   Comments: NPO for EGD
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: IV PPI [**Hospital1 7**]
   VAP:  NA
   Communication: ICU consent signed
   Code status: Full code
   Disposition:ICU for scope ; serial Hct throughout afternoon
   stable, likely call out later this afternoon
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2109-1-27**] 01:33 PM
   20 Gauge - [**2109-1-27**] 01:34 PM
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-01-30 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD yesterday:  no clear source of bleeding
   Stable HCT's overnight.
   History obtained from Patient
   Allergies:
   Aspirin
   Prior GIB;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-1-30**] 08:00 AM
   Other medications:
   Colace, ranolazine, simvastatin, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-30**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 79 (64 - 100) bpm
   BP: 126/55(72) {105/28(46) - 217/133(138)} mmHg
   RR: 21 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,464 mL
                                                                    790 mL
   PO:
             180 mL
   TF:
   IVF:
                                                                  1,882 mL
                                                                    610 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  3,075 mL
                                                                    450 mL
   Urine:
                                                                  3,075 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -611 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   111 K/uL
   85
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   142 mEq/L
   32.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-1-28**]  03:54 AM
                             [**2109-1-28**]  09:56 AM
                             [**2109-1-28**]  03:34 PM
                             [**2109-1-28**]  10:16 PM
                             [**2109-1-29**]  05:42 AM
                             [**2109-1-29**]  09:36 AM
                             [**2109-1-29**]  05:48 PM
                             [**2109-1-30**]  02:39 AM
                             [**2109-1-30**]  06:00 AM
                             [**2109-1-30**]  10:27 AM
   WBC
   13.8
   11.4
   11.1
   10.7
   Hct
   29.6
   30.1
   27.9
   23.9
   31.4
   31.2
   32.6
   31.5
   32.3
   Plt
   107
   102
   109
   111
   Cr
   0.9
   0.9
   1.0
   Glucose
   93
   170
   125
   85
   Other labs: PT / PTT / INR:13.2/29.6/1.1, CK / CKMB /
   Troponin-T:36//<0.01, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   73yo with CAD admitted with GIB.
    GIB:  Still likely LGIB despite negative colonoscopy.  No further
   signs of bleeding, HCT now stable.
     -Goal HCT >30 given history of angina
     -Continue to hold clopidogrel for now
     -Serial HCTs today
     -Cont PPI, po OK.
     -Advance diet today
    Angina:  EKG WNL during this admission.
     -Holding antiplatelets for now
     -Add back anti-hypertensives given stability.
   Access:  D/C cordis after peripherals placed.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2109-1-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes